US04999436
Atropic acid (149 mg, 1.10 mmol) and mercaptoacetic acid (80 μl, 106 mg, 1.15 mmol) were combined and stirred 18 hours at 130° C. under a nitrogen atmosphere. The resulting crude Michael addition product was dissolved in acetic anhydride (2.4 mL, 2.6 g, 25 mmol) and sodium acetate (115 mg, 1.4 mmol) was added. The reaction was warmed in an oil bath, increasing the temperature to 150° C. over 1 hour. The mixture was maintained at that temperature for 2.5 hours, then cooled to 25° C. and evaporated. The residue was dissolved in 3.0 mL of dioxane and DDQ (200 mg, 0.88 mmol) was added in portions over 10 minutes. The reaction was stirred 1 hour at 25° C., then for 0.5 hour at 50°-55° C. The mixture was allowed to stand at room temperature overnight, diluted with 3 mL of dichloromethane, and filtered. The precipitate was rinsed with an additional 3 mL of dichloromethane. The solution was evaporated, taken up in 25 mL of ethyl acetate, and washed with 2×15 mL of saturated aqueous sodium bicarbonate followed by 15 mL of saturated aqueous sodium chloride. The residue was dried over sodium sulfate, filtered, and evaporated. The residue was dissolved in a mixture of ethyl acetate and dichloromethane and evaporated onto 1.5 g of silica gel. Flash column chromatography on 5 g of silica gel eluted with 4% ethyl acetate in hexane gave 84 mg (44% yield) of 3-acetoxy 4-phenylthiophene as an almost colorless oil. A similarly prepared sample was further purified by bulb-to-bulb distillation, bp 85°-90° C. (0.2 mm).

reactant | Atropic acid | 1.10 mmol, 149 mg | C(C(=C)C1=CC=CC=C1)(=O)O | C9H8O2
reactant | mercaptoacetic acid | 1.15 mmol, 80 μl, 106 mg | SCC(=O)O | C2H4O2S
reactant | acetic anhydride | 25 mmol, 2.4 mL, 2.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 1.4 mmol, 115 mg | C(C)(=O)[O-].[Na+]
reactant | DDQ | 0.88 mmol, 200 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-acetoxy 4-phenylthiophene | 84 mg, 44% yield | C(C)(=O)OC1=CSC=C1C1=CC=CC=C1 | C12H10O2S
